US08791119B2
To a solution under nitrogen of 6.50 g (17.2 mmol) of tert-butyl 7-bromo-8-carbamoyl-6-chloro-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate in 200 ml of tetrahydrofuran are added 2.52 g (17.2 mmol) of 3-cyanophenylboronic acid (CAS 150255-96-2), 10 ml of water, 16.8 g (52.4 mmol) of caesium carbonate and 1.68 g (2.06 mmol) of a complex of 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium (II) and dichloromethane (PdCl2(dppf).CH2Cl2—CAS 95464-05-4). The mixture is stirred for 6 hours at 100° C. and then for 15 hours at 80° C., then cooled to room temperature and filtered through Celite™. The Celite is rinsed with 200 ml of ethyl acetate and 30 ml of water are added to the combined filtrates. The organic phase is separated out by settling, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue obtained is chromatographed on a column of silica gel, eluting with a mixture of 2 to 50% ethyl acetate in dichloromethane, to give 3.69 g of tert-butyl 8-carbamoyl-6-chloro-7-(3-cyanophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate in the form of a white solid after recrystallization from ethyl acetate and drying at 60° C. under reduced pressure.

reactant | tert-butyl 7-bromo-8-carbamoyl-6-chloro-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 17.2 mmol, 6.50 g | BrC=1C(=C2N(CCN(C2)C(=O)OC(C)(C)C)C1Cl)C(N)=O | C13H17BrClN3O3
reactant | 3-cyanophenylboronic acid | 17.2 mmol, 2.52 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | water | 10 ml | O | H2O
reactant | caesium carbonate | 52.4 mmol, 16.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl 8-carbamoyl-6-chloro-7-(3-cyanophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 3.69 g | C(N)(=O)C=1C(=C(N2C1CN(CC2)C(=O)OC(C)(C)C)Cl)C2=CC(=CC=C2)C#N | C20H21ClN4O3
